US07109219B2
4-(1H-Indol-6-yloxy)pyridin-2-ylamine
Sodium hydride (1.04 g, 26.0 mmol, 60% in oil) was suspended in dimethyl sulfoxide (2.5 ml); 6-hydroxyindole (3.46 g, 26.0 mmol) and 2-amino-4-chloropyridine (2.57 g, 20.0 mmol, WO 02/332872) were subsequently added thereto at room temperature under nitrogen stream; and the reaction mixture was stirred at 160° C. for 8.5 hours. After cooled down to room temperature, the reaction mixture was partitioned between ethyl acetate (150 ml) and a solvent mixture of aqueous ammonia:water=1:1 (50 ml); the organic layer was washed with a solvent mixture of aqueous ammonia:water=1:1, and with brine, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by silica gel column chromatography (Fuji Silysia BW-300, ethyl acetate, or ethyl acetate:methanol=93:7); and the obtained crystals were suspended in diethyl ether, filtered off, washed with diethyl ether, and dried to yield the title compound (477 mg, 2.12 mmol, 10.6%) as pale yellow crystals.

reactant | Sodium hydride | 26.0 mmol, 1.04 g | [H-].[Na+]
reactant | 6-hydroxyindole | 26.0 mmol, 3.46 g | OC1=CC=C2C=CNC2=C1 | C8H7NO
reactant | 2-amino-4-chloropyridine | 20.0 mmol, 2.57 g | NC1=NC=CC(=C1)Cl | C5H5ClN2
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | 4-(1H-Indol-6-yloxy)pyridin-2-ylamine | 2.12 mmol, 477 mg, 10.6% | N1C=CC2=CC=C(C=C12)OC1=CC(=NC=C1)N | C13H11N3O
